US07825278B2
Ethyl 2-chloro-α-[(dimethylamino)methylene]-β-oxo-benzenepropanoate
A mixture of ethyl 3,3-dimethylaminoacrylate (4.68 g, 32.7 mmol) and N,N-diisopropylethylamine (12 mL, 8.9 g, 69 mmol) was stirred at rt and a solution of 2-chlorobenzoyl chloride (5.72 g, 32.7 mmol) in 30 mL of toluene was added over 5 mins.

reactant | ethyl 3,3-dimethylaminoacrylate | 32.7 mmol, 4.68 g | CNC(=CC(=O)OCC)NC | C7H14N2O2
reactant | N,N-diisopropylethylamine | 69 mmol, 12 mL, 8.9 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-chlorobenzoyl chloride | 32.7 mmol, 5.72 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-chloro-α-[(dimethylamino)methylene]-β-oxo-benzenepropanoate | ClC1=C(C=CC=C1)C(C(C(=O)OCC)=CN(C)C)=O | C14H16ClNO3
